US04923857
To a solution of (2S,4S)-1-allyloxycarbonyl-4-benzoyloxy-2-(2-methyl-3-oxo-1-butenyl)pyrrolidine (0.23 g) in methanol (5 ml) was added 28% solution of sodium methoxide in methanol (0.13 ml) at ° C. and the resulting mixture was stirred at the same temperature for 1 hour. To this solution was added acetic acid (0.04 ml), and the mixture was poured into a mixture of brine and ethyl acetate. The organic layer was separated, washed three times with brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (20 ml) eluting with a mixture of n-hexane and ethyl acetate (1:1 V/V) to give (2S,4S)-1-allyloxycarbonyl- 4-hydroxy-2-(2-methyl-3-oxo-1-butenyl)pyrrolidine (0.14 g).

reactant | (2S,4S)-1-allyloxycarbonyl-4-benzoyloxy-2-(2-methyl-3-oxo-1-butenyl)pyrrolidine | 0.23 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)OC(C1=CC=CC=C1)=O)C=C(C(C)=O)C | C20H23NO5
reactant | sodium methoxide | C[O-].[Na+]
reactant | acetic acid | 0.04 ml | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 0.13 ml | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | (2S,4S)-1-allyloxycarbonyl- 4-hydroxy-2-(2-methyl-3-oxo-1-butenyl)pyrrolidine | 0.14 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)O)C=C(C(C)=O)C | C13H19NO4
